US05236952
1.0 g of ethyl 5-(3,4-dimethoxy-5-nitrophenyl)-4-oxazolecarboxylate is treated with 10 ml of constant-boiling hydrobromic acid and stirred at 140° for 2 hours. After distillation of the excess hydrobromic acid, the yellow residue is recrystallized from ethanol/acetone. There is obtained 2-amino-3',4'-dihydroxy-5'-nitroacetophenone hydrobromide in the form of yellow crystals of m.p. >250° (dec.).

reactant | ethyl 5-(3,4-dimethoxy-5-nitrophenyl)-4-oxazolecarboxylate | 1.0 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=C(N=CO1)C(=O)OCC | C14H14N2O7
reactant | hydrobromic acid | 10 ml | Br | BrH
product | 2-amino-3',4'-dihydroxy-5'-nitroacetophenone hydrobromide | Br.NCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | InChI=1S/C8H8N2O5.BrH/c9-3-7(12)4-1-5(10(14)15)8(13)6(11)2-4;/h1-2,11,13H,3,9H2;1H
